US08372864B2
16.1.1: Methyl 7-(3-cyanophenyl)-1-oxo-2-(1-propyl butyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate
Added to a solution of 0.3 g of methyl 7-bromo-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate in 9.4 cm3 of dioxane and 1.8 cm3 of water, at a temperature close to 20° C., are 147 mg of sodium bicarbonate. The reaction medium is then degassed under an argon atmosphere, then 111 mg of 3-cyanophenylboronic acid and 72 mg of tetrakis(triphenylphosphine)palladium are added. The mixture is heated at 150° C. in a microwave oven for 4 minutes, cooled to a temperature close to 20° C. and filtered. The filtrate is dried over anhydrous magnesium sulfate then filtered; added to the filtrate is 1 g of silica and the absorbed residue is purified by flash chromatography over silica (column: 15 g; spherical silica of BP-SUP type, particle size: 20-40 μm, eluent: 80% heptane/20% ethyl acetate then 60% heptane/40% ethyl acetate). After concentrating the fractions under reduced pressure, 103 mg of methyl 7-(3-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate are obtained in the form of an orange oil.

reactant | methyl 7-bromo-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | 0.3 g | BrC=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C18H24BrNO3
reactant | sodium bicarbonate | 147 mg | C([O-])(O)=O.[Na+]
solvent | dioxane | 9.4 cm3 | O1CCOCC1 | C4H8O2
solvent | water | 1.8 cm3 | O | H2O
product | Methyl 7-(3-cyanophenyl)-1-oxo-2-(1-propyl butyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | C(#N)C=1C=C(C=CC1)C=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C25H28N2O3
